* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=5.60772031215e-11
.param C2=6.22573059729e-11
.param Csh=3.55583161875e-11
.param L1=3.24820497261e-08
.param Vsrc_amp=383.384381448
.param ne=2.22063550361e+14
.param nu_m=174583091.958

* Sources
Vsrc src 0 SIN(0 383.384381448 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 87.0300660072
Lbulk nb ns 4.98502260619e-07
Csh ns n 3.55583161875e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
